US05495020
To 3-(4-methyl-1-piperazinyl)-4-fluoro-2,5-dimethyl-6-nitro-N-cyclopropylaniline (1.65 g) is added diethyl ethoxymethylenemalonate (1.45 ml) and the mixture is heated at 150° C. for 25 hours. After cooling, the reaction product is purified by silica-gel column-chromatography (dichloromethane : methanol=100 : 1) to give diethyl[N-cyclopropyl-N-[3-(4-methyl-l-piperazinyl)-4 -fluoro-2,5-dimethyl-6-nitrophenyl]aminomethylene]malonate (1.58 g). The product is dissolved in acetic anhydride (7.9 ml) and thereto conc. sulfuric acid (3.16 ml) is added dropwise at 50°-60° C., followed by stirring for 30 minutes. The resultant mixture is poured into ice-water, neutralized, extracted with dichloromethane and the extract is dried. The solvent is distilled off under reduced pressure. Purification by silica-gel column-chromatography (dichloromethane : methanol =10 : 1) and recrystallization from ethanol--diethyl ether to give ethyl 7-(4-methyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1,4-dihydro-4 -oxoquinoline-3-carboxylate (28 mg), as yellow crystals, m.p. 146°-147° C.

reactant | 3-(4-methyl-1-piperazinyl)-4-fluoro-2,5-dimethyl-6-nitro-N-cyclopropylaniline | 1.65 g | CN1CCN(CC1)C=1C(=C(NC2CC2)C(=C(C1F)C)[N+](=O)[O-])C | C16H23FN4O2
reactant | diethyl ethoxymethylenemalonate | 1.45 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl[N-cyclopropyl-N-[3-(4-methyl-l-piperazinyl)-4 -fluoro-2,5-dimethyl-6-nitrophenyl]aminomethylene]malonate | 1.58 g | C(C)OC(C(C(=O)OCC)=CN(C1=C(C(=C(C(=C1[N+](=O)[O-])C)F)N1CCN(CC1)C)C)C1CC1)=O | C24H33FN4O6
